US04760069
6-Methyloximino-17-cyclopropylmethyl-4,5α-epoxy-3,14-dihydroxymorphinan
Naltrexone hydrochloride (1.134 g, 3 mmol) was added to a solution of CH3ONH2HCl (0.33 g, 3.9 mmol) in 15 mL MeOH containing 3.2 mL 10% aqueous NaOH. The mixture was refluxed for 5 h, cooled, diluted with approximately 100 mL H2O and extracted with 150 mL CHCl3 (3×50 mL). The combined CHCl3 extracts were dried (MgSO4) and evaporated. TLC showed that the reaction was incomplete and hence the reaction was repeated as before using the mixture, CH3ONH2HCl (0.165 g, 1.9 mmol) and 0.8 mL of 10% aqueous NaOH. After workup the product was chromatographed on a column of silica gel (approx. size 40 microns) using EtOAC-EtOH-NH4OH (100:1:0.5) as eluent. The fractions were combined, evaporated and the residue recrystallized from hexane-petroleum ether. Yield: 0.55 g (49.6%). mp 172°-173° C. IR (KBr): No C=O absorption at 1720 cm-1 ; 1H NMR: (CDCl3)δ4.95 (s, C5H), 3.82 (s, OCH3); Rf: silica gel 60 in EtOAc-EtOH-NH4OH (100:1:1) 0.40. Anal. Caled for C21H26N2O4 : C, 68.09; H, 7.07; N, 7.56. Found: C, 67.96; H, 7.11; N, 7.55.

reactant | Naltrexone hydrochloride | 3 mmol, 1.134 g | C1=CC(=C2C3=C1C[C@@H]4[C@]5([C@]3(CCN4CC6CC6)[C@@H](O2)C(=O)CC5)O)O.Cl
reactant | CH3ONH2HCl | 3.9 mmol, 0.33 g | CON.Cl
reactant | CH3ONH2HCl | 1.9 mmol, 0.165 g | CON.Cl
reactant | NaOH | 0.8 mL | [OH-].[Na+]
reactant | MeOH | 15 mL | CO | CH4O
solvent | H2O | approximately 100 mL | O | H2O
product | 6-Methyloximino-17-cyclopropylmethyl-4,5α-epoxy-3,14-dihydroxymorphinan | CC1[C@H]2[C@]34C=5C(=C(C=CC5C[C@H]([C@@]3(CC1=NO)O)N(CC4)CC4CC4)O)O2 | C21H26N2O4
